US07842715B2
The 3-dimethylamino-1-(4-nitrobenzoyl)pyrrolidine (2.4 g, crude), obtained in Step 1, is dissolved in methanol, treated sequentially with hydrazine (5 mL) and Raney-Nickel (suspension in water, approximately 1 g), stirred at room temperature for 4 h and filtered through celite. The filtercake is washed with methanol. The filtrates are combined and concentrated to give 1-(4-aminobenzoyl)-3-dimethylamino-pyrrolidine as a pale brown oil, identified by HPLC and MS [234.5 m/e (M+H)].

reactant | 3-dimethylamino-1-(4-nitrobenzoyl)pyrrolidine | 2.4 g | CN(C1CN(CC1)C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C | C13H17N3O3
reactant | hydrazine | 5 mL | NN | H4N2
solvent | methanol | CO | CH4O
catalyst | Raney-Nickel | approximately 1 g | [Ni] | Ni
product | 1-(4-aminobenzoyl)-3-dimethylamino-pyrrolidine | NC1=CC=C(C(=O)N2CC(CC2)N(C)C)C=C1 | C13H19N3O
